US09035059B2
Chlorosulfonic acid (35.6 mL) was added dropwise to a solution of 1-(7-bromo-3,4-dihydroisoquinolin-2(1 H)-yl)-2,2,2-trifluoroethanone obtained (25.4 g, 82.3 mmol) in chloroform (35 mL) while cooling in ice, and the mixture was stirred at room temperature for 1 hr and at 60° C. for 4 hr. After cooling, the reaction mixture was added dropwise to ice water and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The concentrate was powdered with hexane and ethyl acetate (5:1) and then collected by filtration to afford 7-bromo-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonyl chloride as a pale yellow powder (22.7 g).

reactant | Chlorosulfonic acid | 35.6 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1-(7-bromo-3,4-dihydroisoquinolin-2(1 H)-yl)-2,2,2-trifluoroethanone | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
solvent | chloroform | 35 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonyl chloride | 22.7 g | BrC1=C(C=C2CCN(CC2=C1)C(C(F)(F)F)=O)S(=O)(=O)Cl | C11H8BrClF3NO3S
